US06528504B2
(R)-5,11-Dihydro-5-[1-(4-methoxyphenethyl)piperidine-2-ylmethyl] dibenzo[b,e][1,4]oxazepine Hydrochloride
3.0 ml of 4 M hydrochloric acid/dioxane was added to a solution of (R)-5,11-dihydro-5-[1-(4-methoxyphenethyl)piperidine-2-ylmethyl] dibenzo[b,e][1,4]oxazepine (0.63 g) in dichloromethane (10 ml), and they were stirred for 2 hours. The solvent was evaporated under reduced pressure. The obtained residue was recrystallized from a mixed solvent of acetone and ether to obtain the title compound in the form of a white solid (496 mg, 73%).

reactant | hydrochloric acid dioxane | 4 M, 3.0 ml | Cl.O1CCOCC1
reactant | (R)-5,11-dihydro-5-[1-(4-methoxyphenethyl)piperidine-2-ylmethyl] dibenzo[b,e][1,4]oxazepine | 0.63 g | COC1=CC=C(CCN2[C@H](CCCC2)CN2C3=C(OCC4=C2C=CC=C4)C=CC=C3)C=C1 | C28H32N2O2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (R)-5,11-Dihydro-5-[1-(4-methoxyphenethyl)piperidine-2-ylmethyl] dibenzo[b,e][1,4]oxazepine Hydrochloride | Cl.COC1=CC=C(CCN2[C@H](CCCC2)CN2C3=C(OCC4=C2C=CC=C4)C=CC=C3)C=C1 | InChI=1S/C28H32N2O2.ClH/c1-31-25-15-13-22(14-16-25)17-19-29-18-7-6-9-24(29)20-30-26-10-3-2-8-23(26)21-32-28-12-5-4-11-27(28)30;/h2-5,8,10-16,24H,6-7,9,17-21H2,1H3;1H/t24-;/m1./s1
